US04639453
1-(4-Amino-6,7-dimethoxyquinazolin-2-yl)-4-(3-oxo-5,5-dimethyl-1-cyclohexen-1-yl)-homopiperazine dihydrochloride
A mixture of 1.7 g (0.007 mol) of 2-chloro-4-amino-6,7-dimethoxyquinazoline, 2.2 g (0.007 mol) of (3-oxo-5,5-dimethyl-1-cyclohexen-1-yl)-homopiperazine dihydrochloride monohydrate, 3.55 g (0.035 mol) of triethylamine and 30 ml of anhydrous isoamyl alcohol is heated at the boiling point under reflux for 10 hours. After cooling, the triethylamine hydrochloride is filtered off with suction and washed with isoamyl alcohol. The alcohol phases are concentrated at 50° C. in vacuo and the residue which remains is dissolved in 200 ml of chloroform. After washing twice with water, the chloroform solution is dried with sodium sulphate and evaporated to dryness. The residue can be taken up in 20 ml of absolute ethanol. Hydrogen chloride, dissolved in ethyl alcohol, is added to this solution, followed by absolute ether, while cooling with ice, until the onset of turbidity. The 1-(4-amino-6,7-dimethoxyquinazolin-2-yl)-4-(3-oxo-5,5-dimethyl-1-cyclo-hexen-1-yl)-homopiperazine dihydrochloride which precipitates is filtered off with suction and washed with absolute ether. Yield: 2.1 g (60%) of melting point 259°-261° C. (decomposition). A sample recrystallised from ethanol/methanol (2:1) has a melting point of 260°-261° C. (decomposition).

reactant | 2-chloro-4-amino-6,7-dimethoxyquinazoline | 0.007 mol, 1.7 g | ClC1=NC2=CC(=C(C=C2C(=N1)N)OC)OC | C10H10ClN3O2
reactant | (3-oxo-5,5-dimethyl-1-cyclohexen-1-yl)-homopiperazine dihydrochloride monohydrate | 0.007 mol, 2.2 g | O.Cl.Cl.O=C1C=C(CC(C1)(C)C)N1CCNCCC1
reactant | triethylamine | 0.035 mol, 3.55 g | C(C)N(CC)CC | C6H15N
solvent | isoamyl alcohol | 30 ml | C(CC(C)C)O | C5H12O
product | 1-(4-Amino-6,7-dimethoxyquinazolin-2-yl)-4-(3-oxo-5,5-dimethyl-1-cyclohexen-1-yl)-homopiperazine dihydrochloride | Cl.Cl.NC1=NC(=NC2=CC(=C(C=C12)OC)OC)N1CCN(CCC1)C1=CC(CC(C1)(C)C)=O | InChI=1S/C23H31N5O3.2ClH/c1-23(2)13-15(10-16(29)14-23)27-6-5-7-28(9-8-27)22-25-18-12-20(31-4)19(30-3)11-17(18)21(24)26-22;;/h10-12H,5-9,13-14H2,1-4H3,(H2,24,25,26);2*1H
